US07494992B2
Preparation 150: (2S,3aR,9bR)-3-(tert-butoxycarbonyl)-9b-[(tert-butoxycarbonyl)oxy]-6-chloro-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylic acid
A stirred mixture of 4-methoxybenzyl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 155, 29 g), di-tert-butyl dicarbonate (100 g) and 4-dimethylaminopyridine (200 mg) was heated at 60° C. for 3 hours and then left at room temperature for 18 h. The reaction mixture was purified by flash chromatography using silica gel and eluting with a gradient of ethyl acetate:hexane (1:9 to 4:6) to give the product as a light yellow solid (25.4 g).

reactant | 4-methoxybenzyl (2S,3aR,9bR)-6-chloro-9b-hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 29 g | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)OCC3=CC=C(C=C3)OC)O | C20H21ClN2O5
reactant | di-tert-butyl dicarbonate | 100 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (2S,3aR,9bR)-3-(tert-butoxycarbonyl)-9b-[(tert-butoxycarbonyl)oxy]-6-chloro-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylic acid | 25.4 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@]2([C@H]1ON(C1=C2C=CC=C1Cl)C)OC(=O)OC(C)(C)C)C(=O)O | C22H29ClN2O8
